US05792764
3-(2-Hydroxy-1-methylethyl)amino-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide
A suspension of 3-methylsulfanyl-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide monohydrate and 2-amino-1-propanol (0.75 mL) was refluxed for 90 min (until completion of the reaction; t.l.c.). After cooling, the addition of diethylether (20 mL) gave rise to the separation of an oily residue. After decantation of the etheral solution, the residue was solubilized in methanol (1 mL) and then supplemented with diethylether (15 mL). An oily residue separated again. After decantation of the supernatent, the oily residue was solubilized in acetone (6 mL). A fine precipitate readily appeared. After 3 h at +4° C., the resulting precipitate was collected by filtration, washed with acetone and dried (yield: 0.33 g); m.p. 213°-216° C. (Compound 19).

reactant | 3-methylsulfanyl-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide monohydrate | O.CSC1=NS(C2=C(N1)C=CN=C2)(=O)=O
reactant | 2-amino-1-propanol | 0.75 mL | NC(CO)C | C3H9NO
solvent | diethylether | 20 mL | C(C)OCC | C4H10O
product | 3-(2-Hydroxy-1-methylethyl)amino-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide | OCC(C)NC1=NS(C2=C(N1)C=CN=C2)(=O)=O | C9H12N4O3S
